US07405300B2
1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde is reacted with piperidine as described in Step 2 of Example 29 to afford 1-(4-tert-butylphenyl)-2-piperidin-1-yl-1H-indole-3-carboxaldehyde (87% yield) as an off-white solid. TLC (silica gel, heptane-30% ethyl acetate); Rf 0.23; ESI/MS 361 (M+H); RT 4.48 min; NMR 10.14 (1H, s); 8.11 (1H, d, J=6 Hz); 7.66 (2H, d); 7.46 (2H, d); 7.16 (2H, m); 6.91 (1H, d, J=9 Hz); 3.27 (4H, m); 1.46 (6H, m); 1.36 (9H, s).

reactant | 1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)Cl | C19H18ClNO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-(4-tert-butylphenyl)-2-piperidin-1-yl-1H-indole-3-carboxaldehyde | 87% yield | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCCCC1 | C24H28N2O
